US08859591B2
To a solution of methyl 4-iodobenzoate (1.21 mL, 7.24 mmol) in THF (12 ml) at −40° C. was added TurboGrignard (1.3 M in THF, 6.13 ml, 7.97 mmol) dropwise. The mixture was stirred for approximately 60 minutes whereupon, tetrahydro-2H-pyran-4-carbaldehyde (0.761 ml, 0.724 mmol) was added dropwise. The mixture was stirred for 15 minutes and slowly warmed to rt over 12 hours. The reaction was quenched with HCl (1N, aq.) and the aq. layer was extracted with EtOAc (3×75 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to provide ethyl 4-(hydroxy(tetrahydro-2H-pyran-4-yl)methyl)benzoate. Crude mixture used into the next step without any further purification. Step B: A round bottom flask was charged with ethyl 4-(hydroxy(tetrahydro-2H-pyran-4-yl)methyl)benzoate (1.9 g, 72 mmol), the Dess-Martin reagent (3.66 g, 8.63 mmol) and DCM (15 mL). The reaction was stirred at room temperature overnight. Reaction diluted with DCM and solid filtered off. The mother liquor concentrated and loaded onto a silica gel column. Purification by silica gel flash chromatography (ethyl acetate/DCM) provide methyl 4-(tetrahydro-2H-pyran-4-carbonyl)benzoate (290 mg, mmol) as a white solid. 1H NMR (400 MHz, CDCl3) δ 1.75-1.96 (m, 4H) 3.45-3.62 (m, 3H) 3.97 (s, 3H) 4.07 (dt, J=11.88, 325 Hz, 2H) 7.98-8.02 (m, 2H) 8.12-8.17 (m, 2H); MS (M−1): 246.8.

reactant | ethyl 4-(hydroxy(tetrahydro-2H-pyran-4-yl)methyl)benzoate | 72 mmol, 1.9 g | OC(C1=CC=C(C(=O)OCC)C=C1)C1CCOCC1 | C15H20O4
reactant | Dess-Martin reagent | 8.63 mmol, 3.66 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-(tetrahydro-2H-pyran-4-carbonyl)benzoate | 290 mg | O1CCC(CC1)C(=O)C1=CC=C(C(=O)OC)C=C1 | C14H16O4
